US07049310B2
Preparation of (E)-N-(2,3-dihydro-1H-3a-azacyclopenta[a]indene-8-ylmethyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylamide
EDC (0.192 g, 1.0 mmole) was added to a solution of (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylic acid hydrochloride salt (0.254 g, 1.0 mmole), 2,3-dihydro-8-(methylaminomethyl)-1H-3a-azacyclopenta[a]indene (0.2 g, 1.0 mmole), HOBt.H2O (0.135 g, 1.0 mmole), and Et3N (0.15 mL, 1.1 mmole) in DMF (20 mL) at RT. The reaction was stirred overnight, then was poured into H2O (50 mL) and extracted with CH2Cl2 (2×30 mL). The combined extracts were washed with brine and dried (MgSO4). Flash chromatography on silica gel (5% MeOH/CH2Cl2) gave the title compound (0.1 g, 25%) a yellow solid: MS (ES) m/e 401 (M+H)+.

reactant | EDC | 1.0 mmole, 0.192 g
reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylic acid hydrochloride salt | 1.0 mmole, 0.254 g | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O
reactant | 2,3-dihydro-8-(methylaminomethyl)-1H-3a-azacyclopenta[a]indene | 1.0 mmole, 0.2 g | CNCC1=C2N(C=3C=CC=CC13)CCC2 | C13H16N2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 1.1 mmole, 0.15 mL | CCN(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
solvent | H2O | 1.0 mmole, 0.135 g | O | H2O
product | (E)-N-(2,3-dihydro-1H-3a-azacyclopenta[a]indene-8-ylmethyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylamide | 0.1 g, 25% | C1CCN2C1=C(C=1C=CC=CC21)CN(C(\C=C\C=2C=NC=1NC(CCC1C2)=O)=O)C | C24H24N4O2
